Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]([C:4]=[O:5])=[C:9]([H:10])[H:11],2.41000916676
[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.67693480666
[H:1][C:2].[O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.0521000466100014
[C:2]=[C:8]([H:9])[H:10].[H:1][C:7]([H:3])=[C:4]=[C:5]([H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.7081024387
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],0.7407188170100001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],1.04635186365
[H:11].[H:1][C:2][O:3]/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.92796370096
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.20589897938
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.45468601383
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12].[H:13],3.84604069289
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.49409627622
[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[O:10][H:11]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.28387707692
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-7.239839505739999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1],6.03400241604
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],0.943859189318
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],-1.41476524634
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12].[H:4],1.98112204654
[H:1][C:2]([H:3])=[C:4]([C:5]([C:6]([H:7])([H:8])[H:9])=[O:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13],0.0234260355601
[C:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[C:1]([H:3])([H:4])=[C:5]=[C:6]([H:7])[H:8].[C:2],1.06571472822
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],3.70151184809
[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-5.722251277409999
[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4][O:5][H:6],4.98029309361
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],0.7786040552269999
[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.86821754021
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4],1.33008085104
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],1.76518939213
[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1][C:2]([O:3])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.75558923348
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-3.86150902703
